US05547972
1-(4-Chlorophenyl)-1-methylethylamine hydrochloride (4.0 g) was reacted with 5-chloropentanoyl chloride (3.0 g) in dichloromethane (15 ml) containing triethylamine (8.1 ml) in a similar manner to Example 52b, to give 5-chloro-N-[1-(4-chlorophenyl)-1-methylethyl]pentanamide.

reactant | 1-(4-Chlorophenyl)-1-methylethylamine hydrochloride | 4.0 g | Cl.ClC1=CC=C(C=C1)C(C)(C)N
reactant | 5-chloropentanoyl chloride | 3.0 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | triethylamine | 8.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-chloro-N-[1-(4-chlorophenyl)-1-methylethyl]pentanamide | ClCCCCC(=O)NC(C)(C)C1=CC=C(C=C1)Cl | C14H19Cl2NO
